US04587342
2,4-Diamino-5-(8-amino-7-chloro-5-quinolylmethyl)pyrimidine dihydrochloride
A solution of 7-chloro-8-aminoquinoline (C. C. Price and D. B. Guthrie, J. Amer. Chem. Soc. 1946, 68, 1592) (3.17 g, 17.7 mmol), 2,4-diamino-5-hydroxymethylpyrimidine (2.50 g, 17.7 mmol), and concentrated hydrochloric acid (2.50 mL) in glacial acetic acid (32 mL) was refluxed for 5 hr. The resulting precipitate was filtered from the cooled reaction mixture and washed with cold acetic acid and ether to give the title compound as tan solid (5.19 g, 79%); mp >290° dec. Anal. Calcd for C14H13ClN6.2HCl: C, 45.00; H, 4.05; N, 22.49; Cl, 28.46. Found: C, 44.89; H, 4.08; N, 22.44; Cl, 28.38.

reactant | 7-chloro-8-aminoquinoline | 17.7 mmol, 3.17 g | ClC1=CC=C2C=CC=NC2=C1N | C9H7ClN2
reactant | 2,4-diamino-5-hydroxymethylpyrimidine | 17.7 mmol, 2.50 g | NC1=NC=C(C(=N1)N)CO | C5H8N4O
reactant | hydrochloric acid | 2.50 mL | Cl | ClH
solvent | acetic acid | 32 mL | C(C)(=O)O | C2H4O2
product | 2,4-Diamino-5-(8-amino-7-chloro-5-quinolylmethyl)pyrimidine dihydrochloride | 5.19 g, 79% | Cl.Cl.NC1=NC=C(C(=N1)N)CC1=C2C=CC=NC2=C(C(=C1)Cl)N | InChI=1S/C14H13ClN6.2ClH/c15-10-5-7(4-8-6-20-14(18)21-13(8)17)9-2-1-3-19-12(9)11(10)16;;/h1-3,5-6H,4,16H2,(H4,17,18,20,21);2*1H
